US05856529
Step 3: 2,2-Dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid
Ethyl 2,2-dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid (10 g, 45 mmol) was heated to reflux with sodium hydroxide (16.3 ml of 10N, 163 mmol) in ethanol (50 ml) for 2 hr. The mixture was concentrated in vacuo, diluted with water and made acidic with 12N HCl. The precipitate was filtered and air dried (8.6 g, 100%).

reactant | Ethyl 2,2-dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid | 45 mmol, 10 g | C(C)C1C(OC=2C1=C(C=CC2)C(=O)O)(C)C | C13H16O3
reactant | sodium hydroxide | 163 mmol, 10N, 16.3 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,2-Dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid | CC1(OC=2C(C1)=C(C=CC2)C(=O)O)C | C11H12O3
